US04772600
N-[2-(Dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0156 mole), 1,1'-carbonyldiimidazole (3.0 g, 0.0185 mole) and dry tetrahydrofuran (125 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through it. The reaction mixture was then heated at 50° C. under nitrogen for 2 hours. The solution was cooled and a solution of N,N-dimethylethylenediamine (4.2 g, 0.047 mole) in tetrahydrofuran (5 ml) was added. The reaction mixture was stirred at room temperature overnight under nitrogen and evaporated under reduced pressure. The residue was triturated in water, and the solid was collected by filtration, washed once with water, twice with 5% potassium hydroxide solution and then twice again with water to yield 3.0 g (49%) of product. A 0.7-g sample of the solid was dissolved in hot isopropyl ether with a little isopropyl alcohol added to aid solubility, filtered, and cooled to room temperature to yield 0.4 g of a white solid, mp 196°-197.5° C.

reactant | 2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0156 mole, 5.0 g | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
reactant | 1,1'-carbonyldiimidazole | 0.0185 mole, 3.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | 0.047 mole, 4.2 g | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | N-[2-(Dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.0 g, 49% | CN(CCNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C | C19H20F3N5O
